US06448283B1
Step C: Preparation of 4c,7a,7b,12a-Tetrahydro-6H, 1 2H 1 3H-indeno[2,3-a]pyrrolo [3,4-c]carbazole-5,7-(5H, 7H)dione
A mixture of 2-(2-indenyl)indole (1.0 g, 4.3 mmol) and maleimide (525 mg, 5.41 mmol) in a 10 cm sealed reaction vial was heated at 180°-190° C. for 30 min. After cooling the reaction to ambient temperature, MeOH (5 mL) was added. The product was collected to give 880 mg (62%) of a white solid product with a m.p. of 254°-255° C. (MeOH). The following NMR data were obtained: 1H NMR (DMSO-d6, 300 MHz): 63.1-3.4 (m, 2H), 3.8 (m, 2H), 3.95 (t, 1H), 4.35 (d, 1H), 6.9-7.4 (m, 7H), 7.75 (d, 1H), 11.05 (s, 1H), 11.25 (s, 1H).

reactant | 2-(2-indenyl)indole | 4.3 mmol, 1.0 g | C1C(=CC2=CC=CC=C12)C=1NC2=CC=CC=C2C1 | C17H13N
reactant | maleimide | 5.41 mmol, 525 mg | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | MeOH | 5 mL | CO | CH4O
product | 4c,7a,7b,12a-Tetrahydro-6H, 1 2H 1 3H-indeno[2,3-a]pyrrolo [3,4-c]carbazole-5,7-(5H, 7H)dione | 880 mg, 62% | C1=CC=CC2=C1CC1=C2C2C(C3C4=CC=CC=C4NC13)C(NC2=O)=O | C21H16N2O2
